US04867915
1.02 g (0.004 mol) of pyridinium p-toluenesulfonate was added to a solution of 2 g of 4-phenoxy-but-2-yn-1-ol tetrahydropyranyl ether in 20 ml of 96% ethanol. The reaction mixture was stirred for 2 hours at 55° C.; the solvent was then removed in vacuo and the residue diluted with 20 ml of water and extracted with methylene chloride (3×20 ml). The combined extracts were dried over sodium sulfate and the solvent evaporated in vacuo. The residue was purified by column chromatography on 30 g of silica gel, using hexane-ethyl acetate (90:10) as eluant, to yield 4-phenoxy-but-2-yn-1-ol, as an oil.

reactant | pyridinium p-toluenesulfonate | 0.004 mol, 1.02 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 4-phenoxy-but-2-yn-1-ol tetrahydropyranyl ether | 2 g | O1C(CCCC1)OCC#CCOC1=CC=CC=C1 | C15H18O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-phenoxy-but-2-yn-1-ol | O(C1=CC=CC=C1)CC#CCO | C10H10O2
